US09119868B2
A stirred suspension of 59.5 g (102 mmol) of methyl 5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-nitrobenzoate and 6.0 g of 10% Pd(C) in 1.2 L of 2:1 THF/EtOH was saturated with hydrogen by bubbling hydrogen gas through for 10 minutes and then subjected to balloon hydrogenation at RT. After 6 hours LCMS indicated complete reaction. After 24 hours the mixture was purged with nitrogen, catalyst removed by filtration through celite, and the filtrate concentrated to dryness at reduced pressure to give a light yellow solid. This material was recrystallized from hot EtOAc to afford 42.2 g of methyl 2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate as a white solid. The filtrate was concentrated to dryness at reduced pressure to give an additional 13.0 g of methyl 2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate as a light yellow foam determined to be 95% pure by LCMS. The two batches were combined for a total yield of 55.2 g (98%) of methyl 2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.46 (q, J=4.42 Hz, 1H) 8.16 (s, 1H) 7.91-8.00 (m, 3H) 7.61 (dd, J=8.98, 2.73 Hz, 1H) 7.41 (t, J=8.88 Hz, 2H) 7.15 (s, 1H) 6.76-6.86 (m, 3H) 3.79 (s, 3H) 3.28 (s, 3H) 2.83 (d, J=4.68 Hz, 3H) 2.25-2.38 (m, 1H) 0.82-1.10 (m, 3H) 0.42 (m, 1H). LCMS(ESI): 552 (M+H+).

reactant | methyl 5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-nitrobenzoate | 102 mmol, 59.5 g | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)C=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C28H24FN3O8S
reactant | hydrogen | [H][H] | H2
solvent | THF EtOH | 1.2 L | C1CCOC1.CCO
product | methyl 2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate | 42.2 g | NC1=C(C(=O)OC)C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C1CC1 | C28H26FN3O6S
